US09034866B2
10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (2 g) was subjected similar to as described in Example 6 to yield 1.22 g of methyl 10-bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate. 75 mg of methyl 10-bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate was treated with LiOH in water/THF to afford 59 mg 10-bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid. This intermediate was reacted with N-Methylamine Hydrochloride similar to as described in Example 2 to produce crude 10-bromo-9-fluoro-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide which was then reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 8.6 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 387 (M)+. 1H NMR (400 MHz, DMSO) δ 11.09 (q, J=4.6 Hz, 1H), 8.61 (d, J=8.5 Hz, 1H), 8.38 (s, 1H), 7.88 (s, 1H), 7.02 (d, J=10.6 Hz, 1H), 5.50 (s, 1H), 5.05-4.94 (m, 2H), 4.58-4.47 (m, 2H), 2.80 (d, J=4.6 Hz, 3H), 1.49 (s, 6H).

reactant | methyl 10-bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate | 75 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(N)=O)C(=O)OC)C1)F | C14H11BrFN3O4
reactant | LiOH | [Li+].[OH-]
solvent | water THF | O.C1CCOC1
product | 10-bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 59 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(N)=O)C(=O)O)C1)F | C13H9BrFN3O4
